US08314098B2
(Step 1): 5-Chloro-7-morpholin-4-yl-2-(4-morpholin-4-yl-phenyl)-pyrazolo[1,5-a]-pyrimidine
There was dissolved, in toluene (2 mL), 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine (41.7 mg, 0.106 mM) in an argon gas atmosphere and then there were added, to the resulting solution, sodium t-butoxide (15.3 mg, 0.159 mM), tris(dibenzylidene acetone) di-palladium (4.9 mg, 0.0053 mM), 2-biphenyl-di-t-butyl phosphine (4.7 mg, 0.016 mM) and morpholine (13.9 μL, 0.159 mM), followed by the stirring of the resulting mixture at 70° C. for 3 hours and the further stirring of the same at 90° C. for one hour. This reaction liquid was diluted with water and then extracted with ethyl acetate. The extracts thus obtained were combined, they were dried over anhydrous sodium sulfate, the solvent was distilled off and the resulting residue was purified by the silica gel column chromatography (ethyl acetate/hexane=1:4) to thus give the title compound (15.6 mg, yield: 39%).

reactant | 2-(4-bromo-phenyl)-5-chloro-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidine | 0.106 mM, 41.7 mg | BrC1=CC=C(C=C1)C1=NN2C(N=C(C=C2N2CCOCC2)Cl)=C1 | C16H14BrClN4O
reactant | sodium t-butoxide | 0.159 mM, 15.3 mg | CC(C)([O-])C.[Na+]
reactant | morpholine | 0.159 mM, 13.9 μL | N1CCOCC1 | C4H9NO
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tris(dibenzylidene acetone) di-palladium | 0.0053 mM, 4.9 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 5-Chloro-7-morpholin-4-yl-2-(4-morpholin-4-yl-phenyl)-pyrazolo[1,5-a]-pyrimidine | 15.6 mg, yield: 39% | ClC1=NC=2N(C(=C1)N1CCOCC1)N=C(C2)C2=CC=C(C=C2)N2CCOCC2 | C20H22ClN5O2
